US04616014
A mixture of 5-methyl-3-methylthio-6-phenyl-1,2,4-triazine (3 g) and ethanolamine (3 g) was heated at 150° to 160° C. for 5.25 hours. The reaction mixture was dissolved in ethyl acetate, washed with water and brine, dried over sodium sulfate and concentrated under reduced pressure. The residue was crystallized from a small amount of diethyl ether and then diisopropyl ether was added thereto. The crystals were collected by filtration, washed with diisopropyl ether and dried to give 3-(2-hydroxyethylamino)-5-methyl-6-phenyl-1,2,4-triazine (2.82 g).

reactant | 5-methyl-3-methylthio-6-phenyl-1,2,4-triazine | 3 g | CC=1N=C(N=NC1C1=CC=CC=C1)SC | C11H11N3S
reactant | ethanolamine | 3 g | C(O)CN | C2H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-hydroxyethylamino)-5-methyl-6-phenyl-1,2,4-triazine | 2.82 g | OCCNC=1N=NC(=C(N1)C)C1=CC=CC=C1 | C12H14N4O
